US09034900B2
Step 2: 2-bromo-4-ethylsulfonyl-1-fluorobenzene
To 2-bromo-4-ethylsulfanyl-1-fluorobenzene (2.2 g, 9.36 mmol) in DCM (20 mL) was added m-CPBA (6.47 g, 37.4 mmol). The mixture was stirred at room temperature for 12 h. Aqueous saturated Na2S2O3 (100 mL) was added, and extractive work up with CH2Cl2 gave the title compound (1.5 g, 50%) as a yellow solid which was carried on without purification. 1H NMR (CDCl3, 400 MHz) δ 8.15 (dd, J1=6.4 Hz, J2=2.4 Hz, 1H), 7.88-7.85 (m, 1H), 7.32 (t, J=8.4 Hz, 1H), 3.14 (q, J=7.2 Hz, 2H), 1.31 (t, J=7.6 Hz, 3H).

reactant | 2-bromo-4-ethylsulfanyl-1-fluorobenzene | 9.36 mmol, 2.2 g | BrC1=C(C=CC(=C1)SCC)F | C8H8BrFS
reactant | m-CPBA | 37.4 mmol, 6.47 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | Na2S2O3 | 100 mL | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-bromo-4-ethylsulfonyl-1-fluorobenzene | 1.5 g, 50% | BrC1=C(C=CC(=C1)S(=O)(=O)CC)F | C8H8BrFO2S
